US07842816B2
Step B: Preparation of 2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester hydrochloric acid salt:
A mixture of 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester and its N-acylated isomer (0.6 g) were treated with 1.5 mL of trifluoroacetic acid for 0.5 hours. An HPLC trace of the reaction mixture showed the reaction was complete. The mixture was concentrated on a rotary evaporator and pumped on high vacuum to give yellow oil (0.9 g). The deprotected samples were submitted for HPLC purification to give purified product as a trifluoroacetic acid salt.

reactant | 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOC(C(C(C)C)NC(=O)OC(C)(C)C)=O)Cl | C27H32BrClFN5O6
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester hydrochloric acid salt | 0.9 g | Cl.BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOC(C(C(C)C)N)=O)Cl | InChI=1S/C22H24BrClFN5O4.ClH/c1-11(2)18(26)22(32)33-6-7-34-29-21(31)13-9-16-20(27-10-30(16)3)17(25)19(13)28-15-5-4-12(23)8-14(15)24;/h4-5,8-11,18,28H,6-7,26H2,1-3H3,(H,29,31);1H
